US06051712
In an analogous manner to that described under (a), by reacting tert-butyl (3RS,4RS)-4-(4-hydroxymethyl-phenyl)-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate with bis-(1-phenyl-1H-tetrazol-5-yl) disulphide there was obtained tert-butyl (3RS,4RS)-3-naphthalen-2-ylmethoxy-4-[4-(1-phenyl-1H-tetrazol-5-ylsulphanylmethyl)-phenyl]-piperidine-1-carboxylate as a colourless foam; MS: 630 (M+Na)+.

reactant | tert-butyl (3RS,4RS)-4-(4-hydroxymethyl-phenyl)-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | OCC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C28H33NO4
reactant | bis-(1-phenyl-1H-tetrazol-5-yl) disulphide | C1(=CC=CC=C1)N1N=NN=C1SSC1=NN=NN1C1=CC=CC=C1 | C14H10N8S2
product | tert-butyl (3RS,4RS)-3-naphthalen-2-ylmethoxy-4-[4-(1-phenyl-1H-tetrazol-5-ylsulphanylmethyl)-phenyl]-piperidine-1-carboxylate | C1=C(C=CC2=CC=CC=C12)COC1CN(CCC1C1=CC=C(C=C1)C(C1=CC=CC=C1)SC1=NN=NN1)C(=O)OC(C)(C)C | C35H37N5O3S
